US05202312
N-Pivaloyl-L-phenylalanyl-L phenylalanyl-L-histidine methyl ester (1.90 g) is dissolved in tetrahydrofuran (12 ml), and a solution of sodium borohydride (0.20 g) in methanol (2.5 ml) is added dropwise thereto. The mixture is stirred at room temperature for four hours, and 5% hydrochloric acid (4 ml) is added to the mixture and then the solvent is distilled off. The residue is made alkaline with an aqueous sodium bicarbonate solution and then extracted with ethyl acetate. The extract is washed with an aqueous sodium chloride solution, dried, and concentrated to remove solvent. The residue is triturated with ethyl acetate to give 4-{2-hydroxymethyl-2-[N-(N-pivaloyl-L-phenylalanyl-L-phenylalanyl)amino]ethyl}imidazole (1.24 g) as white powder. Yield: 68.8%

reactant | N-Pivaloyl-L-phenylalanyl-L phenylalanyl-L-histidine methyl ester | 1.90 g | COC([C@@H](NC([C@@H](NC([C@@H](NC(C(C)(C)C)=O)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O)CC1=CNC=N1)=O | C30H37N5O5
reactant | sodium borohydride | 0.20 g | [BH4-].[Na+]
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | methanol | 2.5 ml | CO | CH4O
product | 4-{2-hydroxymethyl-2-[N-(N-pivaloyl-L-phenylalanyl-L-phenylalanyl)amino]ethyl}imidazole | 1.24 g, Yield: 68.8% | OCC(CC=1N=CNC1)NC([C@@H](NC([C@@H](NC(C(C)(C)C)=O)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C29H37N5O4
